datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5][H:9])[H:11])[H:10])([H:6])([H:7])[H:8],123.344
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11](=[S:12])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:16])[H:6])([H:4])[H:5].[C:9]([C:10]([C:11](=[S:12])[H:18])[H:17])([H:13])([H:14])[H:15],69.9146
[C:0]1([H:7])[C:1]2([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]1([H:11])[C:5]([H:12])([H:13])[C:6]2([H:14])[H:15]>>[C:0]1([H:7])([H:14])[C:1]2([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]1([H:11])[C:5]([H:12])([H:13])[C:6]2[H:15],144.348
[C:1]([H:2])([H:3])([H:4])[H:5].[C:6]#[C:7]>>[C:1]([H:3])([H:4])[H:5].[H:2][C:7]#[C:6],4.3932
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7]>>[C:0](=[C:1]([C:2]([H:9])([H:10])[H:11])[H:8])([H:6])[H:7].[O:3][O:4][H:5],125.938
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9]([C:8]([H:11])([H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],60.7098
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([C:6]([C:7]([H:16])([H:17])[H:18])[H:15])[H:14])[H:8],94.4329
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[C:12]([O:13][H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:14])[H:8])([H:5])([H:6])[H:7].[C:12]([O:13][H:17])([H:15])[H:16],81.00224
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([C:7]([C:8]([C:9]([H:24])([H:25])[H:26])[H:23])([H:21])[H:22])([H:19])[H:20])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:24])([H:25])[H:26])[H:23])[H:12])([H:10])[H:11],81.2533
[H:0].[c:1]1([H:11])[c:2]([H:12])[c:3]([H:13])[c:4]2[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]2[c:10]1[H:18]>>[H:0][H:11].[c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]2[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]2[c:10]1[H:18],62.67632
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31],3.93296
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[C:24]([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][C:24]([H:25])([H:26])[H:27],43.233272
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:9])[H:10],54.392
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[H:8]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[H:8])[H:4],14.7277
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[c:23]1[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]1[H:33]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[c:23]1[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]1[H:33])[H:13])([H:11])[H:12],-2.76144
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:22])[H:12],48.1578
